US07456169B2
N-[4-(chloromethyl)-1,3-thiazol-2-yl]acetamide
A mixture of acetylthiourea (591 mg, 5 mmol) and 1,3-dichloroacetone (667 mg, 5.25 mmol) in acetone (15 mL) was heated at reflux for 7 hours, cooled to room temperature, diluted with ethyl acetate, washed with water and brine, dried (MgSO4), filtered and concentrated. The concentrate was purified by column chromatography to give the title compound. MS (DCI) m/e 191 (M+H)+; 1H NMR (300 MHz, DMSO-d6) 12.21 (s, 1H), 7.22 (s, 1H), 4.70 (s, 2H), 2.13 (s, 3H).

reactant | acetylthiourea | 5 mmol, 591 mg | C(C)(=O)NC(=S)N | C3H6N2OS
reactant | 1,3-dichloroacetone | 5.25 mmol, 667 mg | ClCC(=O)CCl | C3H4Cl2O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(chloromethyl)-1,3-thiazol-2-yl]acetamide | ClCC=1N=C(SC1)NC(C)=O | C6H7ClN2OS
